US08609847B2
(1) Preparation of 8-chloro-6-hydroxy-3,4-dihydroquinolin-2(1H)-one
A suspension of 3-chloro-N-(2-fluoro-4-methoxyphenyl)propaneamide (1.0 g, synthesized from 3-chlorobutyryl chloride and 2-fluoro-4-methoxyaniline) and aluminum chloride (5.0 g) in n-heptane (2.0 mL) was stirred at 110° C. for 3 days. The reaction mixture was diluted with chloroform, followed by addition of ice-cold water under ice cooling. After stirring at room temperature for 2 hours, the organic layer and the aqueous layer were separated. The aqueous layer was extracted with chloroform, and the organic layers were combined, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluting solvent: hexane/ethyl acetate=3/2) and NH-type silica gel column chromatography (eluting solvent: chloroform/methanol=99/1 to 9/1) to give the titled compound (0.059 g, 7%) as a light-yellow solid.

reactant | 3-chloro-N-(2-fluoro-4-methoxyphenyl)propaneamide | 1.0 g | ClCCC(=O)NC1=C(C=C(C=C1)OC)F | C10H11ClFNO2
reactant | aluminum chloride | 5.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | n-heptane | 2.0 mL | CCCCCCC | C7H16
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 8-chloro-6-hydroxy-3,4-dihydroquinolin-2(1H)-one | 0.059 g, 7% | ClC=1C=C(C=C2CCC(NC12)=O)O | C9H8ClNO2
